US07741479B2
To a heavy walled vial containing methyl 2-chloro-3,4-dihydroxybenzoate (899.8 mg, 4.4 mmol, 1 equiv.) in 13 mL DMF was added KF (1.29 g, 22.2 mmol, 5 equiv.) and the mixture was stirred at room temperature for 30 min. Dibromomethane (0.375 mL, 5.3 mmol, 1.2 equiv.) was added and the mixture was heated to 120° C. for 4 h. The mixture was cooled down to room temperature, diluted with water, and extracted with ethyl ether. The combined ether layers were washed with 1M NaOH, water, brine, dried over anhydrous Na2SO4, filtered and solvent removed under vacuum. The crude product was absorbed onto silica and purified by flash column (silicagel, hexane:ethyl acetate 8 Å to give 395.8 mg (42%) of methyl 4-chlorobenzo[d][1,3]dioxole-5-carboxylate as a colorless crystalline solid. See Tetrahedron Lett. 38: 3361-3364 (1978); U.S. Patent Appl. Publication No. 20050009867.

reactant | methyl 2-chloro-3,4-dihydroxybenzoate | 4.4 mmol, 899.8 mg, 1 equiv. | ClC1=C(C(=O)OC)C=CC(=C1O)O | C8H7ClO4
reactant | KF | 22.2 mmol, 1.29 g, 5 equiv. | [F-].[K+]
reactant | Dibromomethane | 5.3 mmol, 0.375 mL, 1.2 equiv. | BrCBr | CH2Br2
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 4-chlorobenzo[d][1,3]dioxole-5-carboxylate | 395.8 mg, 42% | ClC1=C(C=CC=2OCOC21)C(=O)OC | C9H7ClO4
